US05591862
A mixture of 4-chloromethyl-5-methyl-2-phenyloxazole (9.2 g), p-hydroxyacetophenone (7.95 g), potassium carbonate (6.73 g) and N,N-dimethylformamide (DMF) (100 ml) was stirred for 2.5 hours at temperatures ranging from 70° to 80° C. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, and dried (MgSO4), then the solvent was distilled off to give 4'-(5-methyl-2-phenyl-4-oxazolylmethoxy)acetophenone (11.6 g, 85%). Recrystallization from ethyl acetate--ether gave colorless prisms, m.p.126°-127° C.

reactant | 4-chloromethyl-5-methyl-2-phenyloxazole | 9.2 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | p-hydroxyacetophenone | 7.95 g | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 6.73 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4'-(5-methyl-2-phenyl-4-oxazolylmethoxy)acetophenone | 11.6 g, 85% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)C(C)=O | C19H17NO3
